US08114881B2
N,5-Dimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide (0.079 g, 0.25 mmol) was dissolved in DMF (1.5 ml) in a vial. N-Bromosuccinimide (0.066 g, 0.38 mmol) was added. The vial was sealed and heated with stirring to 50° C. for 90 minutes. The crude mixture was added dropwise to water (20 ml) under magnetic stirring. The precipitate was isolated by filtration to give 0.078 g (80%) of 6-bromo-N,5-dimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide as a solid.

reactant | N,5-Dimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | 0.25 mmol, 0.079 g | CNC(=O)C1=NC=C(N(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C14H12F3N3O2
reactant | N-Bromosuccinimide | 0.38 mmol, 0.066 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 20 ml | O | H2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 6-bromo-N,5-dimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | 0.078 g, 80% | BrC1=C(N(C(C(=N1)C(=O)NC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C14H11BrF3N3O2
